US05021439
A solution of 2.61 g (10 m mol) of dimethyl (R)-N-tert-butoxycarbonylaspartate in 10 ml of tetrahydrofuran was added dropwise to a lithium isopropylamide solution [prepared from 4.62 ml (33 m mol) of diisopropylamine and 21 ml (33 m mol) of butyllithium hexane solution, in 30 ml of tetrahydrofuran]at -78° C. in a stream of nitrogen. The mixture was stirred for 10 minutes and a solution of 2.48 g (20 m mol) of propionylimidazole in 15 ml of tetrahydrofuran was added dropwise. The reaction mixture was stirred for 10 minutes at -78° C. and further stirred in a dry ice-acetone bath of -40° C. Stirring was continued until the temperature of the mixture reached -20° C. Then a saturated ammonium chloride aqueous solution was added and the mixture was stirred at room temperature. The mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with a saturated saline solution, dried over anhydrous sodium sulfate and distilled under reduced pressure. The residue was subjected to a silica gel column (2.5×40 cm) chromatography (ethyl acetate:hexane=1:3→1:2) to obtain 2.93 g (92%) of dimethyl (R)-N-tert-butoxycarbonyl-3-propionylaspartate as colorless oil.

reactant | dimethyl (R)-N-tert-butoxycarbonylaspartate | 2.61 g | C(C)(C)(C)OC(=O)N[C@H](CC(=O)OC)C(=O)OC | C11H19NO6
reactant | lithium isopropylamide | 4.62 ml | C(C)(C)[NH-].[Li+]
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium hexane | CCCCCC.C(CCC)[Li]
reactant | propionylimidazole | 2.48 g | C(CC)(=O)C=1NC=CN1 | C6H8N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | dimethyl (R)-N-tert-butoxycarbonyl-3-propionylaspartate | 2.93 g, 92% | C(C)(C)(C)OC(=O)N[C@H](C(C(=O)OC)C(CC)=O)C(=O)OC | C14H23NO7
